* sg13g2_and2_1: exhaustive vectors, thin-oxide vs thick-oxide
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.include /foss/designs/sg13g2_stdcell_hv/spice/sg13g2_stdcell_hv.spice

Vlv vlv 0 1.2
Vhv vhv 0 3.3
Vlvh vlvh 0 0.6
Vhvh vhvh 0 1.65

Xlv0 o_lv_0_X 0 0 vlv 0 sg13g2_and2_1
Rklv0X o_lv_0_X vlvh 1G
Xhv0 o_hv_0_X 0 0 vhv 0 sg13g2_hv_and2_1
Rkhv0X o_hv_0_X vhvh 1G
Xlv1 o_lv_1_X 0 vlv vlv 0 sg13g2_and2_1
Rklv1X o_lv_1_X vlvh 1G
Xhv1 o_hv_1_X 0 vhv vhv 0 sg13g2_hv_and2_1
Rkhv1X o_hv_1_X vhvh 1G
Xlv2 o_lv_2_X vlv 0 vlv 0 sg13g2_and2_1
Rklv2X o_lv_2_X vlvh 1G
Xhv2 o_hv_2_X vhv 0 vhv 0 sg13g2_hv_and2_1
Rkhv2X o_hv_2_X vhvh 1G
Xlv3 o_lv_3_X vlv vlv vlv 0 sg13g2_and2_1
Rklv3X o_lv_3_X vlvh 1G
Xhv3 o_hv_3_X vhv vhv vhv 0 sg13g2_hv_and2_1
Rkhv3X o_hv_3_X vhvh 1G

.control
op
print v(o_lv_0_X)
print v(o_hv_0_X)
print v(o_lv_1_X)
print v(o_hv_1_X)
print v(o_lv_2_X)
print v(o_hv_2_X)
print v(o_lv_3_X)
print v(o_hv_3_X)
quit
.endc
.end
